US07462623B2
4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-6-methoxy-7-[3-(4-prop-2-ynylpiperazin-1-yl)propoxy]quinazoline
A mixture of 4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-7-(3-chloropropoxy)-6-methoxyquinazoline (0.08 g), 1-prop-2-ynylpiperazine (0.047 g), potassium iodide (0.01 g) and DMA (2 ml) was stirred and heated to 80° C. for 3.5 hours. The solvent was evaporated and the residue was partitioned between methylene chloride and a saturated aqueous ammonium chloride solution. The organic phase was dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica using a 19:1 mixture of methylene chloride and methanol and then a 9:1 mixture of methylene chloride and a saturated methanolic ammonia solution as eluent. The resulting gum was triturated under diethyl ether. There was thus obtained the title compound as a solid (0.066 g); NMR Spectrum: (DMSOd6 and CF3CO2D) 2.3 (m, 2H), 3.2-3.6 (br m, 10H), 3.75 (s, 1H), 3.95 (br s, 2H), 4.0 (s, 3H), 4.35 (m, 2H), 6.3 (s, 2H), 7.4 (s, 1H), 7.9 (s, 1H), 8.15 (s, 1H), 8.95 (s, 1H); Mass Spectrum: M+H+ 511 and 513.

reactant | 4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-7-(3-chloropropoxy)-6-methoxyquinazoline | 0.08 g | ClC=1C(=C2C(=NC1)OCO2)NC2=NC=NC1=CC(=C(C=C21)OC)OCCCCl | C18H16Cl2N4O4
reactant | 1-prop-2-ynylpiperazine | 0.047 g | C(C#C)N1CCNCC1 | C7H12N2
reactant | potassium iodide | 0.01 g | [I-].[K+]
solvent | DMA | 2 ml | CC(=O)N(C)C | C4H9NO
product | 4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-6-methoxy-7-[3-(4-prop-2-ynylpiperazin-1-yl)propoxy]quinazoline | 0.066 g | ClC=1C(=C2C(=NC1)OCO2)NC2=NC=NC1=CC(=C(C=C21)OC)OCCCN2CCN(CC2)CC#C | C25H27ClN6O4
